US08012976B2
(4,5-Dimethyl-4H-1,2,4-triazol-3-yl)methanol
A mixture of 3,4-dimethyl-4H-1,2,4-triazole (2.3 g, 23.7 mmol) and formalin (5 mL) was heated to 90° C. overnight. The mixture was concentrated to give crude product. The crude product was purified by silica gel chromatography (dichloromethane/methanol=200:1 to 15:1) to give the title compound (2.48 g, yield 82%) as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 2.31 (s, 3H), 3.52 (s, 3H), 4.52-4.54 (d, J=5.2 Hz, 2H), 5.49-5.51 (t, J=5.2 Hz, 1H). LC-MS (ESI) m/z: 128 (M+1)+.

reactant | 3,4-dimethyl-4H-1,2,4-triazole | 23.7 mmol, 2.3 g | CC1=NN=CN1C | C4H7N3
reactant | formalin | 5 mL | C=O | CH2O
product | (4,5-Dimethyl-4H-1,2,4-triazol-3-yl)methanol | 2.48 g, yield 82% | CN1C(=NN=C1C)CO | C5H9N3O
